US06903086B2
To a solution of 2-[2-(biphenyl-4-yloxy)-ethoxycarbonylamino]-6-chloro-benzoic acid 2-trimethylsilanyl-ethyl ester (340 mg, 0.664 mmol) and 1.0M tetrabutyl ammonium fluoride in THF (0.66 mL, 0.6636 mmol) in DMF (6 mL) and the mixture was stirred for 2 h. 2N HCl was added to adjust the pH to 1-2 and the mixture was partitioned between water and ethyl acetate. The combined organics were washed with water, then brine dried over magnesium sulfate and concentrated to dryness. Purification by crystallization gave 0.121 g of 2-[2-(biphenyl-4-yloxy)-ethoxycarbonylamino]-6-chloro-benzoic acid as a white solid, 801, mp:157.5-158.9.

reactant | 2-[2-(biphenyl-4-yloxy)-ethoxycarbonylamino]-6-chloro-benzoic acid 2-trimethylsilanyl-ethyl ester | 0.664 mmol, 340 mg | C[Si](CCOC(C1=C(C=CC=C1Cl)NC(=O)OCCOC1=CC=C(C=C1)C1=CC=CC=C1)=O)(C)C | C27H30ClNO5Si
reactant | tetrabutyl ammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 0.6636 mmol, 0.66 mL | C1CCOC1 | C4H8O
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-[2-(biphenyl-4-yloxy)-ethoxycarbonylamino]-6-chloro-benzoic acid | 0.121 g | C1(=CC=C(C=C1)OCCOC(=O)NC1=C(C(=O)O)C(=CC=C1)Cl)C1=CC=CC=C1 | C22H18ClNO5
